US08252802B2
Sodium hydroxide (Sigma-Aldrich 415413, d=1.515 g/ml, 217 ml of a 50% solution, 4059.84 mmol) was added to N-[({2-chloro-6-[(3R)-3-methylmorpholin-4-yl]pyrimidin-4-yl}methyl)(methyl)oxido-λ6-sulfanylidene]-2,2,2-trifluoroacetamide (27.12 g, 67.66 mmol), 1,2-dibromoethane (23.32 ml, 270.66 mmol) and tetraoctylammonium bromide (3.70 g, 6.77 mmol) in methyl THF (1000 ml) at 20° C. under nitrogen. The resulting mixture was stirred at 20° C. for 24 hours. Further 1,2-dibromoethane (23.32 ml, 270.66 mmol) was added and the mixture was stirred at 20° C. for a further 24 hours. The reaction mixture was diluted with methyl THF (1000 ml) and the aqueous layer separated. The organic layer was diluted further with EtOAc (1000 ml) and washed with water (1500 ml). The organic layer was dried over MgSO4, filtered and then evaporated. The residue was purified by flash chromatography on silica, eluting with a gradient of 0 to 5% MeOH in DCM. Pure fractions were evaporated to afford (3R)-4-(2-chloro-6-(1-(S-methylsulfonimidoyl)cyclopropyl)pyrimidin-4-yl)-3-methylmorpholine (14.80 g, 66%); 1H NMR (400 MHz, DMSO-d6) 1.21 (3H, d), 1.39 (3H, m), 1.62-1.71 (1H, m), 3.01 (3H, s), 3.43 (1H, tt), 3.58 (1H, dd), 3.72 (1H, d), 3.82 (1H, d), 3.93 (1H, dd), 4.01 (1H, s), 4.38 (1H, s), 6.96 (1H, d); m/z: (ES+) MH+, 331.46 and 333.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | N-[({2-chloro-6-[(3R)-3-methylmorpholin-4-yl]pyrimidin-4-yl}methyl)(methyl)oxido-λ6-sulfanylidene]-2,2,2-trifluoroacetamide | 67.66 mmol, 27.12 g | ClC1=NC(=CC(=N1)CS(=NC(C(F)(F)F)=O)(=O)C)N1[C@@H](COCC1)C | C13H16ClF3N4O3S
reactant | 1,2-dibromoethane | 270.66 mmol, 23.32 ml | BrCCBr | C2H4Br2
reactant | 1,2-dibromoethane | 270.66 mmol, 23.32 ml | BrCCBr | C2H4Br2
catalyst | tetraoctylammonium bromide | 6.77 mmol, 3.70 g | [Br-].C(CCCCCCC)[N+](CCCCCCCC)(CCCCCCCC)CCCCCCCC
solvent | methyl THF | 1000 ml | CN1C(CNC2=C1C(=O)N=C(N2)N)CNC3=CC=C(C=C3)C(=O)NC(CCC(=O)O)C(=O)O | C20H25N7O6
solvent | methyl THF | 1000 ml | CN1C(CNC2=C1C(=O)N=C(N2)N)CNC3=CC=C(C=C3)C(=O)NC(CCC(=O)O)C(=O)O | C20H25N7O6
product | (3R)-4-(2-chloro-6-(1-(S-methylsulfonimidoyl)cyclopropyl)pyrimidin-4-yl)-3-methylmorpholine | 14.80 g, 66% | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)C1(CC1)S(=O)(=N)C | C13H19ClN4O2S
